Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
laparoscopic converted to open appendectomy

 
History of Present Illness:
The patient is an otherwise healthy ___ man with no
significant past medical history who presents with 6 hours acute
onset abdominal pain.  The pain is diffuse ___.  He
has had moderate nausea but no emesis. He denies fever and
diarrhea.  He reports an episode of similar pain ___ yr ago that
resolved and had a negative work-up.

 
Past Medical History:
 seasonal allergies

 
Social History:
___
Family History:
non contributory
 
Physical Exam:
On admission
VS: 97.7  92  136/82  18  100RA
Gen: NAD
CV: RRR S1 S2
Lungs: CTA B/L
Abd: soft, mildly distended, tender to palpation in 
periumbilical
and RLQ. No guarding, minimal rebound.
.
At Discharge:
Vitals: 
GEN: NAD, A/Ox3
CV: RRR
RESP: CTAB
ABD: +BS, ND, appropriately TTP. Passing flatus, +BM
Incision: Right upper quadrant OTA with staples.
Extrem: no c/c/e

 
Pertinent Results:
___ 08:30AM BLOOD WBC-9.3 RBC-4.79 Hgb-13.7* Hct-37.2* 
MCV-78* MCH-28.5 MCHC-36.7* RDW-13.4 Plt ___
___ 10:15AM BLOOD WBC-16.0*# RBC-5.03 Hgb-14.4 Hct-38.2* 
MCV-76* MCH-28.7 MCHC-37.8* RDW-13.4 Plt ___
___ 10:20AM BLOOD ___ PTT-26.6 ___
___ 06:45AM BLOOD Glucose-110* UreaN-12 Creat-0.8 Na-136 
K-3.5 Cl-99 HCO3-28 AnGap-13
___ 02:51AM BLOOD ALT-23 AST-19 AlkPhos-87 TotBili-0.6
___ 06:45AM BLOOD Calcium-8.9 Phos-2.7 Mg-1.9
___ 02:51AM BLOOD Albumin-4.9*
.
CT ABDOMEN W/CONTRAST Study Date of ___
IMPRESSION: Acute uncomplimated appendicitis.
.
Pathology Examination 
Procedure date     ___ 
DIAGNOSIS: 
Appendix:
Acute appendicitis and periappendicitis.
Clinical:   Appendicitis. 
.
ABDOMEN (SUPINE & ERECT) Study Date of ___ 
IMPRESSION: 
1. Minimally dilated loops of predominantly large bowel, most 
suggestive of an underlying postoperative ileus. 
2. Bibasilar atelectasis. 

 
Brief Hospital Course:
The patient underwent the above procedure.  He tolerated the 
procedure well and was transferred to the surgical floor for 
continued monitoring.  His diet was NPO, IVF for hydration, 
kefzol/flagyl, foley catheter in place, PCA for pain

___ - foley removed, diet advanced to clears but made NPO 
following distension and nausea

___ - cont abx, cont IVF, ARBF. Bowel movement on 
___. Diet advanced from clears to regular food. Tolerating 
well. Antibiotics discontinued. Voiding adequate amounts. Pain 
well controlled with oral medication.  

___ - Continues to tolerate a regular diet. Vitals stable, 
afebrile. Independent with ADL's.  Discharged home with no 
services.
 
Medications on Admission:
zyrtec 
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*1*
2. Acetaminophen-Codeine 300-30 mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed.
Disp:*20 Tablet(s)* Refills:*0*
3. Senna 8.6 mg Tablet Sig: ___ Tablets PO BID (2 times a day) 
as needed for constipation for 2 weeks.
Disp:*30 Tablet(s)* Refills:*0*
4. Zyrtec 5 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
acute appendicitis
Perforated appendix
Post-op atelectasis
Post-op ileus
.
Secondary:
seasonal allergies 

 
Discharge Condition:
Stable
Tolerating a regular diet
Adequate pain control with oral medication

 
Discharge Instructions:
Please call your doctor or return to the ER for any of the 
following:
* If you are vomiting and cannot keep in fluids or your 
medications.
* You are getting dehydrated due to continued vomiting, 
diarrhea or other reasons. Signs of dehydration include dry 
mouth, rapid heartbeat or feeling dizzy or faint when standing.
* You see blood or dark/black material when you vomit or have a 
bowel movement.
* Your pain is not improving within ___ hours or not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or is changing location or moving to your chest or 

back.
*Avoid lifting objects > 5lbs until your follow-up appointment 
with the surgeon.
*Avoid driving or operating heavy machinery while taking pain 
medications.
* You have shaking chills, or a fever greater than 101.5 (F) 
degrees or 38(C) degrees.
* Any serious change in your symptoms, or any new symptoms that 
concern you. 
* Please resume all regular home medications and take any new 
meds 
as ordered. 
* Continue to ambulate several times per day.
.
Incision Care:____________________
-Your steri-strips will fall off on their own. Please remove any 
remaining strips ___ days after surgery.
-You may shower, and wash surgical incisions.
-Avoid swimming and baths until your follow-up appointment.
-Please call the doctor if you have increased pain, swelling, 
redness, or drainage from the incision sites.

 
Followup Instructions:
___